US07132426B2
Preparation of (2-{4-[1-(2-Fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidin-1-yl)-5-methyl-pyrimidin-4-yl)-dimethyl-amine (Compound A212)
1-(2-Fluoro-4-methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine HCl salt (0.3 g, 0.97 mmol) and (2-chloro-6-methyl-pyrimidin-4-yl)-dimethyl-amine (285 mg, 0.97 mmol) were dissolved in DMF (10 mL). The solution was treated with K2CO3 (398 mg, 2.91 mmol) at an ambient temperature. After stirring at 65° C. for five hours, the reaction was poured into H2O (20 mL). The organic compound was extracted with ethyl acetate (30 mL) and washed with brine. The ethyl acetate layer was dried over MgSO4 and concentrated under vacuum. The residue was purified over SiO2 to afford Compound A212 (312 mg, 65.2%). 1H NMR (400 Mz, DMSO-d6) δ 8.69 (s, 1H), 8.64 (s, 1H), 8.17 (dd, J=8.4, 1.8, 1H), 8.08 (d, J=4.2, 1H), 8.01 (dd, J=8.4, 1.8, 1H), 7.72 (s, 1H), 5.65 (m, 1H), 4.23˜4.20 (m, 2H), 3.50˜3.46 (m, 2H), 3.39 (s, 3H), 3.00 (s, 6H), 2.13 (s, 3H), 2.10˜2.09 (m, 2H), 1.77˜1.72 (m, 2H), LCMS 527.5[M+1].

reactant | 1-(2-Fluoro-4-methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine HCl salt | 0.97 mmol, 0.3 g | Cl.FC1=C(C=CC(=C1)S(=O)(=O)C)N1N=CC=2C1=NC=NC2OC2CCNCC2
reactant | (2-chloro-6-methyl-pyrimidin-4-yl)-dimethyl-amine | 0.97 mmol, 285 mg | ClC1=NC(=CC(=N1)N(C)C)C | C7H10ClN3
reactant | K2CO3 | 2.91 mmol, 398 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 20 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (2-{4-[1-(2-Fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidin-1-yl)-5-methyl-pyrimidin-4-yl)-dimethyl-amine | FC1=C(C=CC(=C1)S(=O)(=O)C)N1N=CC=2C1=NC=NC2OC2CCN(CC2)C2=NC=C(C(=N2)N(C)C)C | C24H27FN8O3S
